Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ year old lady, with a history of breast cancer 
and 
hypothyroidism, who presents after an episode of near syncope at 
home. The patient had recently been diagnosed with 
patellofemoral pain syndrome by her ___ care physician. She 
was having intense, right knee pain at home yesterday evening; 
she went to walk to the bathroom when she was grabbed by a sharp 
pain in her right knee.  She then had a sensation of warmth and 
a strange feeling that she was "about to pass out."  She lowered 
herself to the ground. She did not strike her head. While on the 
floor, the patient appeared to lose consciousness for about 2 
minutes, as she was making gargling noise.  Her partner says 
that she did not respond to her name being called; however, she 
noticed no shaking or tongue-biting.  The patient has had 
episodes of syncope in the past, attributed to dehydration. She 
also notes that she had a similar experience to this a few weeks 
ago when she was motion-sick in the car, vomited, had diarrhea 
and then needed to go to sleep.  She has no history of seizures. 

.
In the ED, initial VS: 96.3, 56, 128/69, 16, 99%.  The patient 
had an episode during which she vomited and had bradycardia to 
28.  The patient's partner reports that she (the partner) was 
found to have CMV of the liver.  Patient has been tested for 
CMV, and test was negative.  EKG in the ED: Sinus bradycardia 
with borderline 1st degree AV block, QTc prolonged to 466 ms.
.
Currently, patient is feeling comfortable.  Says that she was 
cold and shaky overnight last night.  Has intermittent nausea.  
Denies any lightheadedness, vertigo, chest pain, shortness of 
breath, abdominal pain, dysuria, hematuria, diarrhea. 
 
Past Medical History:
- Breast Cancer, dx'd ___ years ago, s/p lumpectomy, followed by 
___
- Insomnia (wakes up in the middle of the night with racing 
thoughts)
- Hypothyroidism
- HSV, on chronic suppression
 
Social History:
___
Family History:
Mother with DM and CAD.
 
Physical Exam:
ADMISSION + DISCHARGE PHYSICAL EXAM:
VS - 97.9 120/74 63 10 96%RA
Supine BP 126/74 HR 58
Seated BP 122/72 HR 64
GENERAL - Thin, white female, well-appearing in NAD, 
comfortable, appropriate
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear
NECK - supple, no thyromegaly, no JVD, no carotid bruits
LUNGS - CTA bilat, no r/rh/wh, good air movement, resp 
unlabored, no accessory muscle use
HEART - RRR, no MRG, nl S1-S2
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs)
SKIN - no rashes or lesions
LYMPH - no cervical, axillary, or inguinal LAD
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout, DTRs 2+ and 
symmetric, cerebellar exam intact, steady gait
 
Pertinent Results:
ADMISSION LABS:
___ 04:10AM BLOOD WBC-4.9 RBC-3.76* Hgb-11.6* Hct-35.0* 
MCV-93 MCH-30.8 MCHC-33.0 RDW-12.3 Plt ___
___ 04:10AM BLOOD Neuts-45.1* Lymphs-48.0* Monos-4.2 
Eos-2.1 Baso-0.5
___ 04:10AM BLOOD Glucose-135* UreaN-20 Creat-0.8 Na-139 
K-3.5 Cl-103 HCO3-29 AnGap-11
___ 04:10AM BLOOD cTropnT-<0.01
___ 04:10AM BLOOD Calcium-8.9 Phos-4.5 Mg-2.1
___ 06:30AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-MOD
___ 06:30AM URINE RBC-1 WBC-7* Bacteri-NONE Yeast-NONE 
Epi-<1
.
DISCHARGE LABS:
___ 12:10PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-SM 
___ 12:10PM URINE RBC-0 WBC-2 Bacteri-NONE Yeast-NONE Epi-1
.
MICROBIOLOGY:
___ Urine Culture: pending
.
IMAGING:
___ EKG: Sinus bradycardia. Borderline P-R interval 
prolongation. Mild Q-T interval prolongation. ST-T wave 
abnormalities. No previous tracing available for comparison.  
Rate 54, QRS 92, QT/QTc 476/465   
.
___ Chest x-ray:  
PA AND LATERAL CHEST RADIOGRAPH: Bilateral low lung volumes are 
noted with crowding of bronchovascular markings; however, there 
is no pleural effusion or pneumothorax. Two linear 
radio-densities overlying the right upper lung likely are 
external to the patient. Interstitial prominance of uncertain 
significance.  

 
Brief Hospital Course:
Ms. ___ is a ___ year old lady, with a history of breast cancer 
and hypothyroidism, who was admitted after an episode of near 
syncope at home, with most likely vasovagal etiology.
.
# Near-syncope: History, with painful trigger and feeling of 
warmth before her LOC, was most suspicious for vasovagal 
episode.  Our differential included cardiogenic (secondary to AV 
block), orthostasis secondary to hypovolemia, seizure (though no 
seizure activity in history), UTI, pneumonia and hypoglycemia.  
During her admission, the patient felt well.  There were no 
significant changes on her EKG, besides borderline 1st degree AV 
block.  Orthostatic vital signs were normal.  Urinalyses x2 were 
not significant.  Chest x-ray was normal.  Blood glucose was 
normal.  While inpatient, Ms. ___ was encouraged to take in 
plenty of PO fluids.  She felt fine at the time of discharge.
.
CHRONIC ISSUES:
# Hypothyroidism: Well-controlled. Continued home levothyroxine.
.
# HSV: Well-controlled. Continued home acyclovir.
.
# Insomnia: Well-controlled. Continued home Ambien PRN.
.
TRANSITIONAL ISSUES: 
none
 
Medications on Admission:
- Acyclovir 400 mg PO daily
- Zolpidem 2.5-5 mg PO daily 
- Levothyroxine 50 mcg PO daily
 
Discharge Medications:
1. acyclovir 400 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
2. zolpidem 5 mg Tablet Sig: ___ Tablet PO HS (at bedtime) as 
needed for insomnia.  
3. levothyroxine 50 mcg Tablet Sig: One (1) Tablet PO 5 times 
per week.  
4. multivitamin  Oral
5. Fish Oil 1,000 mg Capsule Sig: One (1) Capsule PO once a day. 
 
6. Vitamin D-3 1,000 unit Tablet, Chewable Sig: One (1) Tablet, 
Chewable PO once a day.  
7. Citrucel 500 mg Tablet Sig: Two (2) Tablet PO once a day.  
8. lysine  Oral
9. selenium  Oral

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Vasovagal syncope
.
Secondary diagnosis:
1st degree AV block

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure to participate in your care here at ___ 
___.  You were admitted after an 
episode of losing consciousness.  We think that this episode was 
a "vasovagal" fainting episode.  It was probably triggered by 
the intense pain that you had in your leg.  All of the tests 
that we did in the hospital returned normal.  You had no 
evidence of a urinary tract infection or pneumonia.

No changes were made to your medications.  Please continue to 
take all of them as you had been prior to your hospitalization.

It is important that you follow up with your primary care 
physician within one week of discharge from the hospital.  
Please call her as soon as possible to arrange an appointment.

Wishing you all the best!
 
Followup Instructions:
___